US07612201B2
N-bromo succinimide (2.67 g, 0.015 mol) was added to a stirred solution of crude 1-(2,4-Bis-benzyloxyphenyl)-2-bromo-ethanone (ca. 6.16 g, 0.015 mol) in dimethylformamide (50 ml) and the mixture was stirred for 18 h. The mixture was concentrated to dryness, dissolved in dichloromethane (50 mL) and washed with (2×50 ml). The combined organic phases were dried over magnesium sulphate and concentrated to give 1-(2,4-Bis-benzyloxy-5-bromo-phenyl)-2-bromo-ethanone as a white solid, which was used without further purification.

reactant | N-bromo succinimide | 0.015 mol, 2.67 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 1-(2,4-Bis-benzyloxyphenyl)-2-bromo-ethanone | 0.015 mol, ca. 6.16 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)C(CBr)=O | C22H19BrO3
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-(2,4-Bis-benzyloxy-5-bromo-phenyl)-2-bromo-ethanone | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Br)C(CBr)=O | C22H18Br2O3
